US06989392B2
4-((2-aminoquinolin-8-yl)oxy)pentan-1-ol
To a 100 mL round bottom flask containing 1.33 g (5.83 mmol) of 8-(1-methyl-but-3-enyloxy)-quinolin-2-ylamine was added 30 mL of a 1M solution of BH3/THF via syringe. Following the addition, the flask was fitted with a reflux condenser and the solution heated to reflux under N2 for 6 h. The reaction mixture was then allowed to cool to room temperature and the volatiles were removed in vacuo. The residue was dissolved in Et2O. Following the addition of 2.25 g (56.2 mmol) of solid NaOH, the mixture was placed in an ice bath. The flask was then fitted with a dropping funnel and 10 mL of 20% aqueous H2O2 was added dropwise with stirring. The funnel was then replaced with a reflux condenser and the mixture heated to reflux with stirring overnight. The resulting suspension was allowed to cool to room temperature and was filtered through a fritted funnel. The ethereal layer was separated, washed thoroughly with 1 M NaHSO4, dried over anhydr. Na2SO4 and evaporated in vacuo. The resulting crude material was purified by silica gel column chromatography (5–25% MeOH/CH2Cl2) to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.82 (d, 1H), 7.16 (m, 1H), 7.03 (m, 1H), 6.97 (m, 1H), 6.73 (d, 1H), 6.33 (s, 1H), 4.62 (m, 1H), 4.46 (m, 1H), 3.44 (m, 2H), 1.76 (m, 1H), 1.59 (m, 3H), 1.27 (d, 3H); MS (DCI/NH3) m/z 247 [M+H]+.

reactant | 8-(1-methyl-but-3-enyloxy)-quinolin-2-ylamine | 5.83 mmol, 1.33 g | CC(CC=C)OC=1C=CC=C2C=CC(=NC12)N | C14H16N2O
reactant | BH3/THF | B.C1CCOC1
reactant | NaOH | [OH-].[Na+]
solvent | H2O2 | 10 mL | OO | H2O2
product | 4-((2-aminoquinolin-8-yl)oxy)pentan-1-ol | NC1=NC2=C(C=CC=C2C=C1)OC(CCCO)C | C14H18N2O2
